US08372516B2
Di(trimethylsilyl) 3-methacryloyloxypropylphosphonate (34.0 g; 0.096 moles) was dissolved in methanol (115 ml). The solution was stirred at room temperature for 2 hours. The solvent was vacuum distilled on a rotary evaporator to give 3-methacryloyloxypropyl phosphonic acid as a highly viscous, colorless oil (19.9 g; yield 99%). 1H NMR (DMSO-d6, δ ppm) 1.52-1.66 (m, 2H, CH2—P), 1.74-1.93 (m, 2H, CH2—CH2—P), 1.87 (s, 3H, CH3), 4.12 (t, 2H, CH2—O), 5.66 (s, 1H, CH═), 6.02 (s, 1H, CH═). 31P NMR (DMSO-d6, δ ppm) 27.06.

reactant | Di(trimethylsilyl) 3-methacryloyloxypropylphosphonate | 0.096 moles, 34.0 g | C(C(=C)C)(=O)OCCCP(O[Si](C)(C)C)(O[Si](C)(C)C)=O | C13H29O5PSi2
solvent | methanol | 115 ml | CO | CH4O
product | 3-methacryloyloxypropyl phosphonic acid | yield 99% | C(C(=C)C)(=O)OCCCP(O)(O)=O | C7H13O5P
